US06583282B1
5-Amino-3-t-butyl-1-p-tolylpyrazole hydrochloride:
A solution of pivaloylacetonitrile (750 g, 6.0 mol) and p-tolylhydrazine hydrochloride (660 g, 4.2 mol) in methanol (2.8 L) was refluxed for 3 h. Heptane was added, and methanol was removed by distillation. The product was crystallized from the solution, collected by filtration and dried in vacuum oven to constant weight. Yield: 1.05 kg, 94%. 1H NMR δ (CDCl3) 7.50 (d, 2H), 7.30 (d, 2H), 5.60 (s, 1H), 2.45 (s, 3H), 1.40 (s, 9H). MS (CI) m/z 229 (M++H).

reactant | pivaloylacetonitrile | 6.0 mol, 750 g | C(C(C)(C)C)(=O)CC#N | C7H11NO
reactant | p-tolylhydrazine hydrochloride | 4.2 mol, 660 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | Heptane | CCCCCCC | C7H16
solvent | methanol | 2.8 L | CO | CH4O
product | 5-Amino-3-t-butyl-1-p-tolylpyrazole hydrochloride | Cl.NC1=CC(=NN1C1=CC=C(C=C1)C)C(C)(C)C | InChI=1S/C14H19N3.ClH/c1-10-5-7-11(8-6-10)17-13(15)9-12(16-17)14(2,3)4;/h5-9H,15H2,1-4H3;1H
